*********
*SRC=ADC8;ADC8;ADCs;Generic;8 bit A-to-D Converter
*SYM=adc8
.SUBCKT ADC8 Vin Vref d7 d6 d5 d4 d3 d2 d1 d0
b1 Vinx Vin V=v(vref)/512  ; an analog add 1/2 lsb
X1 Vinx Vref 1 d7x ADC1 {  }
b2 d7 0 V=v(d7x) >.6 ? 0 : 5 ; invert the sign bit
X2 1 Vref 2 d6 ADC1 {  }
X3 2 Vref 3 d5 ADC1 {  }
X4 3 Vref 8 d4 ADC1 {  }
X5 8 Vref 11 d3 ADC1 {  }
X6 11 Vref 12 d2 ADC1 {  }
X7 12 Vref 13 d1 ADC1 {  }
X8 13 Vref 18 d0 ADC1 {  }
.SUBCKT ADC1 Vin Vref Vout Dout 
B2 Dout 0 V=v(Vin) > 0 ? 5 : 0
B3 Vout 0 V=v(Vin)  > 0 ? 2*(v(Vin) - v(vref))  : 2*(v(Vin) + v(vref))
.ENDS 
.ENDS 
*********
